US08957080B2
To a mixture of (R)-tert-butyl 3-(4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate (150 mg, 0.31 mmol) in 10 ml DCM was added TFA (10 ml). The reaction mixture was stirred at RT for 2 h. Solvent was removed and sat. NaHCO3 (10 mL) was added. The resulting mixture was extracted with DCM. The organic layer was dried and concentrated to afford (R)-5-(4-phenoxyphenyl)-7-(piperidin-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (100 mg, 83% in yield), which was subjected to the next step without any further purification.

reactant | (R)-tert-butyl 3-(4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate | 0.31 mmol, 150 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C28H31N5O3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-5-(4-phenoxyphenyl)-7-(piperidin-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 100 mg, 83% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@H]2CNCCC2 | C23H23N5O
